US09359340B2
Tert-butyl cyclopropylmethylcarbamate (11.2 g, 65.4 mmol) was dissolved into THF (60 mL) and set to stir at −78° C. BuLi (2.5M, 28.8 mL) was then added portionwise over 10 minutes. The reaction was allowed to stir while warming to −20° C. for 10 minutes, and continued stirring at that temperature for another 10 minutes. The reaction was then recooled to −78° C. at which point chloro(methoxy)methane (5.79 g, 72.0 mmol) was added via syringe. The reaction was then allowed to stir overnight with warming. The reaction was then quenched with 1N HCl and the organic layer separated. The aquoues layer was then extracted with DCM (2×), and the combined organic portions were dried with MgSO4, filtered and concentrated. The crude material was purified by passing through a silica plug eluting 10:1 Hex/EtOAc to give tert-butyl cyclopropylmethyl(methoxymethyl)carbamate (12.8 g, 91%) as a clear liquid.

reactant | Tert-butyl cyclopropylmethylcarbamate | 65.4 mmol, 11.2 g | C1(CC1)CNC(OC(C)(C)C)=O | C9H17NO2
reactant | BuLi | 2.5M, 28.8 mL | [Li]CCCC
reactant | chloro(methoxy)methane | 72.0 mmol, 5.79 g | ClCOC | C2H5ClO
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | tert-butyl cyclopropylmethyl(methoxymethyl)carbamate | 12.8 g, 91% | C1(CC1)CN(C(OC(C)(C)C)=O)COC | C11H21NO3
